US09126934B2
Dimethyl acetamide (694 ml), 35.2 g of sodium-t-butoxide, and 131 g of 2-ethyl-3,7-dimethyl-6-(4-(trifluoromethoxy)phenoxy)quinolin-4(1H)-one were added to a glass vessel equipped with a stirring device, a thermometer, and a reflux condenser and having a volume of 1000 ml under a nitrogen atmosphere, and the mixture was stirred at room temperature. Methyl chloroformate (34.4 g) was added dropwise thereto, and a reaction was allowed to proceed at room temperature for one hr. The reaction mixture was poured into 1735 ml of water contained in a 5-L plastic vessel, and the mixture was stirred at room temperature for 2 hr. The precipitated solid was collected by a suction filter and was washed with water. The solid was dried in vacuo to give 2-ethyl-3,7-dimethyl-6-(4-(trifluoromethoxy)phenoxy)quinolin-4-yl methyl carbonate (149.5 g, yield 98.8%).

reactant | Dimethyl acetamide | 694 ml | CC(=O)N(C)C | C4H9NO
reactant | sodium-t-butoxide | 35.2 g | CC(C)([O-])C.[Na+]
reactant | 2-ethyl-3,7-dimethyl-6-(4-(trifluoromethoxy)phenoxy)quinolin-4(1H)-one | 131 g | C(C)C=1NC2=CC(=C(C=C2C(C1C)=O)OC1=CC=C(C=C1)OC(F)(F)F)C | C20H18F3NO3
reactant | Methyl chloroformate | 34.4 g | ClC(=O)OC | C2H3ClO2
solvent | water | 1735 ml | O | H2O
product | 2-ethyl-3,7-dimethyl-6-(4-(trifluoromethoxy)phenoxy)quinolin-4-yl methyl carbonate | 149.5 g, yield 98.8% | C(OC1=C(C(=NC2=CC(=C(C=C12)OC1=CC=C(C=C1)OC(F)(F)F)C)CC)C)(OC)=O | C22H20F3NO5
